US09351974B2
Step c: Synthesis of 3-[(7R)-2-chloro-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile
To a stirred solution of (7R)-2-chloro-7-methyl-7,8-dihydropteridin-6(5H)-one (4.2 g, 21.15 mmol) in dichloromethane (350 mL) was added triethylamine (29.61 ml, 211.5 mmol), cupric acetate (7.69 g, 42.30 mmol) and 3-cyanophenyl boronic acid (6.62 g, 42.30 mmol) followed by 4 Å molecular sieves (2.0 g). The reaction mixture was stirred for 24 h at rt with an air balloon on the top. The reaction mixture was then filtered over celite to give a clear solution. The solution was washed with aqueous saturated sodium bicarbonate (50 mL×2), dried over anhydrous sodium sulfate and evaporated to give a crude material, which was purified by silica gel column chromatography (eluent: 2% methanol in dichloromethane) to give the desired product (Yield: 39%). 1HNMR (300 MHz, CDCl3): δ 1.66 (d, J=6.9 Hz, 3H), 4.55 (q, J=5.1 Hz, 1H), 5.98 (br s 1H), 7.16 (s, 1H), 7.50-7.53 (m, 1H), 7.59-7.68 (m, 1H), 7.72 (t, J=7.8 Hz, 1H) and 7.81-7.83 (m, 1H).

reactant | (7R)-2-chloro-7-methyl-7,8-dihydropteridin-6(5H)-one | 21.15 mmol, 4.2 g | ClC1=NC=2N[C@@H](C(NC2C=N1)=O)C | C7H7ClN4O
reactant | triethylamine | 211.5 mmol, 29.61 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyanophenyl boronic acid | 42.30 mmol, 6.62 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 3-[(7R)-2-chloro-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | Yield: 39% | ClC1=NC=2N[C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)C | C14H10ClN5O
